US06982348B2
To a solution of zinc chloride (16.0 g, 117 mmol) in diethyl ether (250 ml) was added sodium borohydride (8.9 g, 235 mmol) and the mixture was stirred at room temperature for 2 hrs. The insoluble material was filtered off. To the filtrate was added a solution of ethyl 3-(3-furanyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (20 g, 58.8 mmol) in diethyl ether (50 ml) and the mixture was stirred at room temperature for 30 min. 1N Hydrochloric acid was added to the reaction solution under ice-cooling for quenching, water (200 ml), and the mixture was extracted with ethyl acetate (300 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give ethyl (2RS,3RS)-3-(3-furanyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate (19.7 g, 98%) as a colorless oil.

reactant | sodium borohydride | 235 mmol, 8.9 g | [BH4-].[Na+]
reactant | ethyl 3-(3-furanyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 58.8 mmol, 20 g | O1C=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C17H15F3O4
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 117 mmol, 16.0 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-(3-furanyl)-3-hydroxy-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 19.7 g, 98% | O1C=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)O | C17H17F3O4
